Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Brought in by friends for "depression"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with possible history of ADHD and depression 
brought in by friends for depression and found to have 
hyponatremia and mild leukocytosis.

History is difficult to determine. Per ED, he endorses a history 
of depression for ___ years. He reports difficulty sleeping 
since last ___ when he took Ecstasy which he says was laced 
with heroin. When asked why, the patient says "cycle of life."  
The patient then reports that he took "hormones that he thought 
were antidepressives" from a friend. He clarifies and says it 
was melatonin. He also reports taking ___ mg of Xanax ___ 
days ago. He states that he used to use marijuana when he was in 
___. 

ED resident obtained collateral from brother at bedside:
"Reports that the patient has a history of ADHD and depression 
in his childhood. Approximately 1 week prior the patient took 
___ and ___ been away for the past ___ days. In the interim 
also took Xanax with a new friend that may have been laced with 
heroin or meth. The patient has been drinking large quantities 
of water they think since he took the ___ as well. The patient 
has a history of heavy drug use ___ months prior when he was 
living in ___. He has since moved to ___ to live with 
his brother. He has been working at a new job at a ___ 
___ and does have overnight shifts. The patient had a history 
of hitting his arm secondary to a breakup when he was 
approximately ___ years old. He was seen by psychiatry at ___ 
___ in ___, for unclear 
reasons. Additionally the patient had previously been prescribed 
Ritalin but was not currently taking it as his brother told him 
to stop." 

In the ED, initial vital signs were:  97.0 60 140/80 16 99% RA 
- Labs were notable for: WBC 10.4 with N84, Na 125, K 2.9, Cr 
0.7. UA, UTox, STox negative. Lactate 1.4. VBG 7.44/63/39. 
- Imaging:  CT head negative
- The patient was given:  
___ 20:45 PO Potassium Chloride 60 mEq
___ 20:45 PO/NG Magnesium Oxide 400 mg
- Consults:  Psychiatry- ___, may not leave AMA, 1:1 
observation, medical admission for hyponatremia

On arrival to floor, he is sleeping but arouses easily and can 
carry full conversation. On further questioning, he has had 
___ of fluid intake via Powerades and water bottles since his 
ecstasy ingestion and reports "80 urinations over past 2 days".  
He denies SI or HI. He does endorse having decreased energy, 
difficulty concentrating, and recently decreased interest.  He 
reports seeing letters on his computer screen and believing they 
have special meaning, but associates this with a "tripping."  
The patient also endorses hearing intermittent ringing in his 
ears.

 
Past Medical History:
-Polysubstance abuse (including marijuana, ecstasy/MDMA, Xanax)
-? ADHD
-? depression
 
Social History:
___
Family History:
father - "anger issues", alcoholism, ADHD
No known history of psychosis reported.
 
Physical Exam:
ADMISSION PHYSICALE EXAM:
==========================
VS:  T97.2 125/66 48 18 99RA
GEN:  Young adult male, sleeping but arouses easily, 
interactive, pleasant, no distress
HEENT:  No scleral icterus, pupils equal and reactive, not 
contricted or dilated, MMM, OP clear
HEART:  Bradycardic, normal S1 S2, no murmurs
LUNGS:  Clear, no wheezes or rales
ABD:  Soft, normal BS, NT ND
EXT:  No ___ edema, 2+ DP and ___ pulses
NEURO:  Alert, oriented, answering questions appropriately. Odd 
affect with tangential thought process. Moves all extremities. 
Slightly hyperreflexic R patellar, otherwise normal in lower 
extremities. 

DISCHARGE PHYSICAL EXAM:
=========================
VS -  98.2  110/55-122/60  47-70  16  96%
GEN:  Young adult male, resting in bed interactive, pleasant, no 
distress
HEENT:  No scleral icterus, pupils equal and reactive, not 
contricted or dilated, MMM, OP clear
HEART:  Bradycardic, normal S1 S2, no murmurs
LUNGS:  Clear, no wheezes or rales
ABD:  Soft, normal BS, mild RLQ tenderness (per patient chronic) 

EXT:  No ___ edema, 2+ DP and ___ pulses
NEURO:  Alert, oriented, answering questions appropriately. Odd 
affect with tangential thought process. Moves all extremities. 

 
Pertinent Results:
ADMISSION LABS:
================
___ 05:03PM BLOOD WBC-10.1* RBC-4.72 Hgb-14.2 Hct-39.2* 
MCV-83 MCH-30.1 MCHC-36.2 RDW-11.2 RDWSD-33.4* Plt ___
___ 05:03PM BLOOD Glucose-160* UreaN-6 Creat-0.7 Na-125* 
K-2.9* Cl-88* HCO3-25 AnGap-15
___ 05:03PM BLOOD Albumin-4.6 Calcium-9.4 Phos-2.0* Mg-1.7
___ 05:13AM BLOOD %HbA1c-5.6 eAG-114
___ 05:03PM BLOOD TSH-0.80
___ 05:03PM BLOOD Osmolal-256*
___ 07:31PM BLOOD Lactate-1.4 K-3.0*
___ 07:31PM BLOOD O2 Sat-91
___ 05:03PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:23PM URINE Color-Straw Appear-Clear Sp ___
___ 03:36PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:23PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:23PM URINE Hours-RANDOM Creat-5 Na-LESS THAN  K-2 
Cl-LESS THAN 
___ 03:36PM URINE Hours-RANDOM UreaN-231 Creat-33 Na-28 
K-12 Cl-32
___ 06:23PM URINE Osmolal-32
___ 03:36PM URINE Osmolal-183
___ 06:23PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
================
___ 05:50AM BLOOD WBC-7.2 RBC-5.13 Hgb-15.7 Hct-45.2 MCV-88 
MCH-30.6 MCHC-34.7 RDW-11.9 RDWSD-38.0 Plt ___
___ 05:50AM BLOOD Glucose-83 UreaN-14 Creat-1.0 Na-140 
K-4.3 Cl-98 HCO3-32 AnGap-14
___ 05:55AM BLOOD ALT-16 AST-18 AlkPhos-43 TotBili-0.5
___ 05:50AM BLOOD Calcium-10.4* Phos-5.2* Mg-2.3

PERTINENT FINDINGS:
====================
CT Head ___:  No acute intracranial process 

ECG ___:
Clinical indication for EKG: R00.1 Bradycardia, unspecified 
  
Sinus bradycardia. Non-specific intraventricular conduction 
delay. 
Non-specific slight J point elevation suggesting possible early 
repolarization. 
Compared to tracing ___levation is new. 
Read by: ___. 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
45 ___ 393             61 31 ___ with possible history of ADHD and depression with recent 
polysubstance abuse who presented with hyponatremia, 
hypokalemia, abnormal thoughts, and mild leukocytosis.

# HYPONATREMIA. Patient presented with a serum sodium of 125, 
serum osmolality of 256, urine osmolality <100, and Urine sodium 
less than 1. TSH was normal, no hyperglycemia. The patient was 
noted to have recent use of MDMA/ecstasy about a week prior to 
admission and had been drinking significant amounts of water 
prior to admission, since he was told that would help his 
recovery. This was thought to be consistent with primary 
polydydpsia and he was placed on a fluid restriction.  His 
sodium levels normalized without further intervention, sodium on 
discharge 140 while on liberalized fluid intake.  Advised 
patient against illicit drug use in the future. 

#HYPOKALEMIA: Presented with K+ of 2.5 on admission, EKG had 
sinus bradycardia, no other obvious EKG changes.  He was given 
IV repletion in the ED and once on the floor and given a regulr 
diet. K+ quickly resolved and on discharge was 4.2.  Thought to 
be related to excessive fluid hydration/urination and poor diet.

#Leukocytosis: Patient noted to have WBC 10,100, without signs 
or symptoms of infection. WBC trended downward to 5,100 the 
following day and was ~7,000 on day of discharge. No further 
workup was done given lack of concern for infection. 

# ABNORMAL EKG, SINUS BRADYCARDIA. Patient noted to have sinus 
arrhythmia with a non-specific intraventricular conduction 
delay, that improved throughout hospital stay. Patient was 
monitored on telemetry and with EKG, showed persistent, but 
stable sinus bradycardia.  

#Psychsosis NOS: The patient was evlauted by psychiatry in the 
ED and due to tagential and disorganized thought was placed on 
___ and 1 to 1 sitter.  After extended conversation with 
the patient psychiatry stated they were concered that he 
"exhibits s/sx concerning for a thought disorder/schizophrenia
spectrum disorder (schizophrenia v. schizoaffective disorder), 
with worsening disorganized thought/behavior in setting of heavy 
substance use, but also with low/depressed mood, decreased 
motivation, poor sleep/appetite, currently has no outpatient 
psychiatric treatment. Family describes history of social
withdrawal, difficulty expressing himself." They recommended 
inpatient psychiatric hospitalization for further stabilization, 
diagnostic clarification, psychopharmacologic evaluation and 
management, psychotherapeutic interventions, family work and 
aftercare planning. The patient's brother and father were 
alerted with the patient's permission.  He was transferred to 
___ in ___. 

TRANSITIOANL ISSUES:
======================
[ ] Patient should establish care with a PCP following psych 
hospitalization. Patient should call ___ to setup 
appointment following discharge
[ ] Patient was advised to refrain from illicit drug use, 
including marijuana in the future.
[ ] Patient should likely continue to have psychiatric follow up 
after discharge from ___.
[ ] Patient noted to have sinus bradycardia with non-specific 
conduction delay on EKG. Deemed to be medically stable, but this 
should continue to be monitored.

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary:
- Hyponatremia 
- Hypokalmeia
- Psychosis NOS

Secondary:
- Sinus bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent though with tangential and at 
time bizarre thought
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital due to concern for depression 
by friends, and were found to have significant electrolyte 
abnormalities.

WHAT WAS DONE DURING YOUR HOSPITAL STAY?
==========================================
- EKG of your heart showed an abnormally slow heart rate, you 
were monitored closely on telemetry until deemed stable.
- You were found to have a very low potassium level, and were 
given potassium. Once you began to eat, this self resolved.
- You were found to have a very low sodium level, due to 
excessive drinking of water. Once your water intake was 
restricted, your sodium levels corrected.
- You were found to have strange thoughts and hallucinations. It 
was unclear if this was due to recent drug use or an underlying 
psychosis. Once medically stable. You were transferred to 
___ for an inpatient psychiatric evaluation.

WHAT SHOULD YOU DO FOLLOWING DISCHARGE?
=========================================
- You should avoid using illicit drugs such as ___ and 
prescription drugs not prescribed such as Xanax.
- You should follow the instructions from your inpatient 
psychiatric stay.
- You should call ___ to establish a PCP following your psych 
discharge. 

It was a pleasure taking care of you. If you have any questions 
about the care you received, please do not hesitate to ask.

Sincerely,
Your Inpatient ___ Care Team
 
Followup Instructions:
___